Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematochezia, syncope
 
Major Surgical or Invasive Procedure:
Colonoscopy
 
History of Present Illness:
Patient is a ___ y/o male with h/o HTN who had routine 
colonoscopy for CRC screening on ___, during which 2 cm polyp 
removed from transverse colon.  He was discharged home and was 
in his USOH until this morning when he woke up at 430 with 
watery diarrhea.  He then started to notice small amounts of 
blood in his stool but decided to go to work.  He felt weak 
walking up the stairs.  He then felt sweaty as he was 
approaching the bathroom and passed a "large amount of blood" in 
the toilet and then had a syncopal event.  The Court clerks 
called EMS and he was brought to ___.   SBP ___ in the field, 
was bradycardic to 52 on arrival to ___.   He had one 
additional episode of passing blood in the ED.  
He had colonoscopy this afternoon and had 5 endoclips placed at 
site of polyp removal - no active bleeding seen but there was 
stigmata of recent bleeding
 
Past Medical History:
Lumbar stenosis
Hypertension
 
Social History:
___
Family History:
Non contributory.
 
Physical Exam:
Discharge Physical Exam  
VS: Afebrile, HDS
Gen: NAD, Pleasant  
HEENT: MMM, NCAT
Lung: CTA B/l, no wheezing 
CV: RRR, no m/r/g
Abd: Nabs, soft, nt/nd  
Skin: No edema, rashes, ulcerations
Neuro: ANOx3, CN intact, no focal deficits 

 
Pertinent Results:
___ 08:10AM BLOOD WBC-5.5 RBC-3.74* Hgb-11.7* Hct-33.6* 
MCV-90 MCH-31.3 MCHC-34.8 RDW-13.9 RDWSD-45.7 Plt ___
___ 08:10AM BLOOD Glucose-89 UreaN-12 Creat-1.2 Na-144 
K-4.0 Cl-107 HCO3-27 AnGap-10
___ 10:40AM BLOOD Calcium-8.5 Phos-2.7 Mg-1.7

Colonoscopy
Stigmata of recent bleeding, but site not well visualized due to 
position of scope 5 endoclips placed and epinephrine injected. 

 
Brief Hospital Course:
Patient is a ___ y/o male admitted with BRBPR and pre-syncope in 
the setting of polypectomy roughly 8 days ago.  He underwent 
colonoscopy and clip placement at bleeding site with hemostasis. 
 He was maintained on a clear liquid diet during his hospital 
stay and monitored for any recurrence of bleeding.  He did not 
have any bloody bowel movements and his H&H was rising 
throughout his hospital stay.  His case was extensively 
discussed with the gastroenterology team who felt that he was 
stable for discharge on ___ with repeat CBC within 1 week 
and follow-up with PCP and gastroenterology.

Given report of feeling clammy and bradycardic, etiology of the 
syncopal episode likely in the setting of anemia and possibly a 
vagal episode.  His  initial EKG did show evidence of slight STE 
on V1 and I which was resolved on subsequent EKG.

Given that he was taking adequate p.o. and resolution of ongoing 
blood loss, he was advised to resume home losartan on discharge. 
 He was advised to hold his home aspirin until discussing with 
primary care physician or gastroenterology.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 50 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Multivitamins 1 TAB PO DAILY 
4. Aspirin 81 mg PO DAILY 
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 50 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Multivitamins 1 TAB PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM  
2.  Losartan Potassium 50 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until discussing w/ PCP and GI
5.Outpatient Lab Work
CBC 
___ - ___
PCP: ___ P: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI bleed

 
Discharge Condition:
Discharge condition–stable
Mental status–alert and oriented x3
Ambulatory

 
Discharge Instructions:
You were admitted to the hospital for GI bleeding following your 
colonoscopy and polypectomy 8 days prior to your hospital 
admission.  You were evaluated by GI and underwent a colonoscopy 
and had multiple clips placed at the bleeding site of your prior 
polypectomy.  You had no further bleeding following placement of 
the clips.  You were monitored in the hospital and your 
hemoglobin improved further suggesting you had no active 
bleeding.

Your case was extensively discussed with our gastroenterology 
team who felt that you were safe for discharge on ___.  
You should call Dr. ___ at ___ on 
___ to set up a follow-up appointment. 

You should also call your primary care physician and set up an 
appointment within ___ weeks of discharge from the hospital.

Your next bowel movement will most likely be somewhat bloody.  
You should not be concerned as this may be old/residual blood.  
However, if you develop any fever, chills, chest pain, shortness 
of breath, lightheadedness/dizziness, loss of consciousness or 
any other concerning symptoms, please contact your primary care 
physician or return to the emergency department for further 
evaluation.

 
Followup Instructions:
___